US06297239B1
Step A: Preparation of Phenyl 4-Cyano-2-hydroxybenzoate
A solution of phenyl 2-hydroxy-4-iodobenzoate, as described in Example 1, Step A, (2.38 g, 7.0 mmol) and Zn(CN)2 (575 mg, 4.9 mmol) in DMF was degassed with argon for 25 minutes. Pd(Ph3P)4 (404 mg, 0.35 mmol) was added and the mixture heated to 80° C. for 16 hr. The mixture was poured into 1N HCl and extracted with EtOAc (2×), washed with water then brine, dried (MgSO4) and the solvent removed. Chromatography of the residue (silica gel; hexane:EtOAc 9:1) afforded the title compound as a white solid.

reactant | phenyl 2-hydroxy-4-iodobenzoate | OC1=C(C(=O)OC2=CC=CC=C2)C=CC(=C1)I | C13H9IO3
reactant | HCl | 1N | Cl | ClH
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 4.9 mmol, 575 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(Ph3P)4 | 0.35 mmol, 404 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Phenyl 4-Cyano-2-hydroxybenzoate | C(#N)C1=CC(=C(C(=O)OC2=CC=CC=C2)C=C1)O | C14H9NO3
